US06310086B1
(R)-5-[2-[[2-(2-Ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carbonitrile (5.95 g) was dissolved in dimethylsulfoxide (16.4 ml), and 5N sodium hydroxide solution (0.25 ml) was added to the solution. To the mixture was added 30% hydrogen peroxide (1.55 ml) keeping inner temperature below 25° C., and the mixture was stirred overnight at an inner temperature of 25-30° C. A solution of sodium sulfite (2.39 g) in distilled water (82 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium bicarbonate solution, distilled water and brine subsequently, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, the residue was recrystallized from ethyl acetate to give (R)-5-[2-[[2-(2-ethoxyphenoxy)-ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide (4.72 g).

reactant | (R)-5-[2-[[2-(2-Ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carbonitrile | 5.95 g | C(C)OC1=C(OCCN[C@@H](CC=2C=C3CCN(C3=C(C2)C#N)CCCO)C)C=CC=C1 | C25H33N3O3
reactant | sodium hydroxide | 5N, 0.25 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 1.55 ml | OO | H2O2
reactant | sodium sulfite | 2.39 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylsulfoxide | 16.4 ml | CS(=O)C | C2H6OS
solvent | water | 82 ml | O | H2O
product | (R)-5-[2-[[2-(2-ethoxyphenoxy)-ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide | 4.72 g | C(C)OC1=C(OCCN[C@@H](CC=2C=C3CCN(C3=C(C2)C(=O)N)CCCO)C)C=CC=C1 | C25H35N3O4
